US05367080
Part B - Chalcone 2
Potassium hydroxide (18.2 g, 325 mmol) was dissolved in 100 mL of H2O, and 100 mL of methanol was added. 2-Acetyl-6-bromopyridine (65 g, 325 mmol) and (68 g, 650 mmol) of p-anisaldehyde were dissolved together in 400 mL of methanol, and the solution was poured into the KOH solution. Precipitation of product began within a few minutes, and the reaction was allowed to stand at room temperature overnight. The precipitate was collected, washed with isopropanol, and dried to yield 79 g (76%) of the product as a yellow solid, mp 100°-102° C. FDMS (m/e) 317 M. An aliquot was purified by column chromatography on Woelm Silica gel, elution with 100% dichloromethane. Anal. Calcd for C15H12BrNO2 : C, 56.63; H, 3.80; N, 4.40. Found: C, 56.66;H, 3.87; N, 4.41. The NMR and IR spectra were consistent with the assigned structure and the product was homogeneous by TLC.

reactant | Potassium hydroxide | 325 mmol, 18.2 g | [OH-].[K+]
reactant | 2-Acetyl-6-bromopyridine | 325 mmol, 65 g | C(C)(=O)C1=NC(=CC=C1)Br | C7H6BrNO
reactant | p-anisaldehyde | 650 mmol, 68 g | C(C1=CC=C(C=C1)OC)=O | C8H8O2
reactant | methanol | 400 mL | CO | CH4O
reactant | methanol | 100 mL | CO | CH4O
solvent | H2O | 100 mL | O | H2O
product | Chalcone | 79 g, 76% | C1(=CC=CC=C1)C=CC(=O)C1=CC=CC=C1 | C15H12O
